US08048909B2
1-[1-(Methylsulfonyl)-5-phenyl-1H-pyrrol-3-yl]-N-methylmethanamine
To a solution (5 mL) of 1-(methylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde (160 mg) in tetrahydrofuran was added benzylmethylamine (117 mg), and the mixture was stirred at room temperature for 30 min. Sodium triacetoxyborohydride (435 mg) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hr. Saturated aqueous sodium hydrogen carbonate was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in methanol (10 mL), 10% palladium carbon (50% water-containing product, 200 mg) and 1 mol/l hydrochloric acid (1 mL) were added, and the mixture was stirred under a hydrogen atmosphere at room temperature for 18 hr. The reaction mixture was filtrated; and the filtrate was concentrated under reduced pressure. Saturated aqueous sodium hydrogen carbonate was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluent: hexane-ethyl acetate=6:1→ethyl acetate) to give the title compound as a colorless oil (yield 62 mg, 37%).

reactant | 1-(methylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde | 5 mL, 160 mg | CS(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C12H11NO3S
reactant | benzylmethylamine | 117 mg | C(C1=CC=CC=C1)CN | C8H11N
reactant | Sodium triacetoxyborohydride | 435 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[1-(Methylsulfonyl)-5-phenyl-1H-pyrrol-3-yl]-N-methylmethanamine | yield 62 mg, 37% | CS(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CNC | C13H16N2O2S
